US06903097B2
Ethyl 8-Chloro-6-methyl-4-oxo-1,4-dihydro[1,7]naphthyridine-3-carboxylate [BT.3]
A mixture of diethyl 2-(((2-chloro-6-methyl-3-pyridinyl)amino)methylene)malonate (Preparation 42, 0.59 g) is added to diphenyl ether (15 mL) and the mixture is degassed by alternately bubbling in nitrogen then subjecting to high vacuum. The mixture is heated rapidly to reflux and after 30 minutes cooled to room temperature. Diphenyl ether is distilled away under high vacuum and the residue taken up in CH2Cl2 (40 mL). The solid is collected by filtration and washed with CH2Cl2 with a second crop obtained by reducing the solvent volume of CH2Cl2 filtrate and collecting more solid. The title compound is obtained as a pale green powder, 0.24 g (47%). Physical characteristics: MS (ESI+) m/z 267 (M+H).

reactant | diethyl 2-(((2-chloro-6-methyl-3-pyridinyl)amino)methylene)malonate | 0.59 g | ClC1=NC(=CC=C1NC=C(C(=O)OCC)C(=O)OCC)C | C14H17ClN2O4
reactant | diphenyl ether | 15 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Ethyl 8-Chloro-6-methyl-4-oxo-1,4-dihydro[1,7]naphthyridine-3-carboxylate | ClC=1N=C(C=C2C(C(=CNC12)C(=O)OCC)=O)C | C12H11ClN2O3
